US08431569B2
Step 6. 4-(Benzyloxy)-2-fluorocyclohexanol
To a stirred solution of 4-(benzyloxy)-2-fluorocyclohexanone (3.8 g, 17.1 mmol) in methanol (60 mL) was added sodium borohydride (1.29 g, 34.2 mmol) at 0° C. The reaction mixture was allowed to warm to room temperature, and left to stir for 45 min. The reaction mixture was treated with ammonium chloride solution and brine, and extracted with EtOAc. The combined organics were dried (magnesium sulfate), and concentrated to afford the title compound.

reactant | 4-(benzyloxy)-2-fluorocyclohexanone | 17.1 mmol, 3.8 g | C(C1=CC=CC=C1)OC1CC(C(CC1)=O)F | C13H15FO2
reactant | sodium borohydride | 34.2 mmol, 1.29 g | [BH4-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methanol | 60 mL | CO | CH4O
solvent | brine | [Cl-].[Na+].O
product | 4-(Benzyloxy)-2-fluorocyclohexanol | C(C1=CC=CC=C1)OC1CC(C(CC1)O)F | C13H17FO2
